US07612075B2
B. 6-Chloro-2-methyl-1,2,3,4-tetrahydronaphthalene-2-ol.
To a solution of TiCl4 (95 mL, 1M in toluene) at −45° C. is added a solution of CH3MgBr (4.2 mL 3M in THF). The solution is stirred for 20 minutes. After this time, 6-chloro-3,4-dihydro-1H-naphthalene-2-one (11.3 g, 63 mmol) in 80 mL of CH2Cl2 is added dropwise over 15 minutes. The reaction is stirred for an additional 15 min at −45° C. The solution is warmed to 0° C. After 2 h, the solution is diluted with H2O and CH2Cl2. The organic layer is dried over MgSO4, filtered and concentrated. The title compound is obtained as an oil (11.3 g, 57.5 mmol). 1H NMR (CDCl3, 300 MHz) δ7.10 (m, 2H), 6.97 (m, 1H), 3.02 (m, 2H), 2.80 (s, 3H), 1.85 (m, 2H), 1.80 (m, 2H).

reactant | CH3MgBr | 3M, 4.2 mL | C[Mg+].[Br-]
reactant | 6-chloro-3,4-dihydro-1H-naphthalene-2-one | 63 mmol, 11.3 g | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
catalyst | TiCl4 | 1M, 95 mL | Cl[Ti](Cl)(Cl)Cl
product | 6-Chloro-2-methyl-1,2,3,4-tetrahydronaphthalene-2-ol | ClC=1C=C2CCC(CC2=CC1)(O)C | C11H13ClO
